data/preprocessed/pmechdb_split_0.csv
split,source_db,step_idx_retro,rxn_idx,mech_smi
train,pmechdb_split_0,0,2972,"CC(C)[CH2:1][Br:2].C[C:3](C)=[C:4](C)[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,6160,"CC(C)=O.CC1=CC=C(S(=O)(=O)[O-])C=C1.COC1CC2CC(O)([O:1]CC(C)(C)CO)CC2C1.[H:2][OH2+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,3660,"C=C(CCC1(C2=CC(OC)=C(OC)C=C2)CC(=O)N(C)C1[OH:1])C[Si](C)(C)C.CC[NH+](CC)CC.O=[S:2](=O)=[CH2:3].[Cl-]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,1630,"O=[C+:1]CCCO[C:2]1=[CH:3]C=CC=C1|((2, 3), 1)"
train,pmechdb_split_0,0,8253,"C[C:1](C)([H:2])[O:3][S+:4](C)[CH2-:5]|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,1623,"CC(C)(OCCO)[OH+:1][H:2].[OH2:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,583,"C[CH:1]([NH+:2](C)C)[OH:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,986,"CO[C:1](N(C)C)([O-:2])[O:3]C|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,3743,"O=C([O-])C[C:1]([CH:2](C1=CC=CC=C1)[H:3])=[O:4].[NH2-:5]|(5, 3);((3, 2), 1);((1, 4), 4)"
train,pmechdb_split_0,0,4068,"C[NH:1]C.[CH2:2]=[OH+:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,255,"C[S+]([O-])CC(OCC1=CC=CC=C1)C1OC(C)(C)OC1C(C[S+](C)O[C:1](C(F)(F)F)([O-:2])[O:3]C(=O)C(F)(F)F)OCC1=CC=CC=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,2282,"CC(=O)O[C:1](C)=[OH+:2].[OH2:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,1050,"C1CCNCC1.CC1=CC=C([CH:1]([C:2](C#N)=[C:3](CC(C)(C)C)[OH:4])[NH+:5]2CCCCC2)C=C1|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,7061,"CCC(=O)N[C+:1]1C=C[C:2]([N+](=O)[O-])([H:3])[CH:4]=[CH:5]1.O=S(=O)(O)[O-:6]|(6, 3);((3, 2), 4);((4, 5), 1)"
train,pmechdb_split_0,0,8775,"CCOC(=O)[C:1](O)([H:2])[C:3]1=[N+:4](C2=C(F)C(F)=C(F)C(F)=C2F)N=C2CCCN21.CC[N:5](CC)CC.F[B-](F)(F)F.O=C(C=CC1=CC2=C(C=C1)OCO2)C1=C(F)C=CC=C1|(5, 2);((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,99,"C=C[C:1](O)([O:2]C(C)=O)[O-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,6956,"CC=CCO[C:1](C)([O-:2])[O:3]C(C)=O|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,10242,"C[S:1][CH+:2][NH-]|(1, 2)"
train,pmechdb_split_0,0,6595,"CC(=O)C1=C2C=C[CH:1]=[CH:2]C2=CC=C1.O=[S+:3](=O)O|((1, 2), 3)"
train,pmechdb_split_0,0,7469,"C1CC[C:1](=[O:2])[CH:3]([H:4])C1.CC[O-:5]|(5, 4);((4, 3), 1);((1, 2), 2)"
train,pmechdb_split_0,0,4758,"CC(=O)C1=CC=CC2=C1C=C[CH+:1][C:2]2([N+](=O)[O-])[H:3].O=S(=O)(O)[O-:4]|(4, 3);((3, 2), 1)"
train,pmechdb_split_0,0,2691,"CCO[C:1](=[C:2](C)C)[O-:3].C[N+:4](C)(C)[H:5]|(3, 1);((1, 2), 5);((5, 4), 4)"
train,pmechdb_split_0,0,5323,"CN[C:1](OC)([O-:2])[Cl:3]|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,6803,"CC(=O)NC1=CC=C(C[C:1](O)([O-:2])[O:3]C2=CC=C(NC(C)=O)C=C2)C=C1|(2, 1);((1, 3), 3)"
train,pmechdb_split_0,0,422,"CC(C)C(Cl)C[CH+:1][C:2](C)(C)[H:3]|((2, 3), 1)"
train,pmechdb_split_0,0,2370,"[Li][N:1](C(C)C)C(C)C.[Li][O+:2]=[C:3](OCC)[CH:4]=[CH:5][CH:6](C)[H:7]|(1, 7);((7, 6), 5);((5, 4), 3);((3, 2), 2)"
train,pmechdb_split_0,0,6217,"CCC(CO)[NH2:1].O=C(C1=CC=CC=C1)[CH2:2][Cl:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2409,"CC[NH+:1]=[C:2](C)C.N#C[BH2-:3][H:4]|((3, 4), 2);((2, 1), 1)"
train,pmechdb_split_0,0,9430,"C1=CC=C2C(=C1)C1=C(C=CC=C1)[N:1]2[H:2].[K][OH:3]|(3, 2);((2, 1), 1)"
train,pmechdb_split_0,0,3876,"CCO.CC[N:1]1C(C)=C(CCO)S[C:2]1=[C:3](O)C1=CC=C(F)C=C1.COC(=O)[C:4]([C:5](C(C)C)=[O:6])=[CH:7]C1=CC=CC=C1.OCC[NH+](CCO)CCO.[Br-]|(1, 2);((2, 3), 7);((7, 4), 5);((5, 6), 6)"
train,pmechdb_split_0,0,6495,"CC1CCCC[CH:1]1[Br:2].N#[C-:3]|(3, 1);((1, 2), 2)"
train,pmechdb_split_0,0,9450,"Br[P:1](Br)Br.[H:2][Br:3]|(1, 2);((2, 3), 3)"
train,pmechdb_split_0,0,2667,"CC[CH:1]=[O:2].[Br][Mg:3][CH3:4]|((3, 4), 1);((1, 2), 2)"
train,pmechdb_split_0,0,1238,"CCC[O+:1](C)[Na:2]|((2, 1), 1)"
train,pmechdb_split_0,0,6566,"CC(=O)N(CCO[Si:1](C)(C)C(C)(C)C)CC12CCC34OC3(CC(O[Si](C)(C)C(C)(C)C)C3CC(O[Si](C)(C)C(C)(C)C)CCC34)C1=CC(=O)C2=O.CN(C)S(N(C)C)=[N+](C)C.C[Si](C)(C)F.[F-:2]|(2, 1)"
train,pmechdb_split_0,0,4128,"FC(F)(F)C1=CO[CH:1]=[CH:2]1.O=[S+:3](=O)O|((2, 1), 3)"
train,pmechdb_split_0,0,7918,"C1CC[N+:1](=[CH2:2])CC1.CC(=O)[O-].COC1=CC2=C(C=C1)[NH:3][C:4](C)=[CH:5]2|(3, 4);((4, 5), 2);((2, 1), 1)"
train,pmechdb_split_0,0,7362,"C[C+:1](C)OC1=CC=CC=C1.O=S(=O)([O-])O.[OH2:2]|(2, 1)"
train,pmechdb_split_0,0,6169,"C1=CC=C([CH:1]([CH:2]=[CH:3][O-:4])[OH:5])C=C1|(4, 3);((3, 2), 1);((1, 5), 5)"
train,pmechdb_split_0,0,4884,"C1=CC=[C:1]([Li:2])C=C1.O=C(CC[CH:3]=[O:4])C1=CC=CC=C1|((2, 1), 3);((3, 4), 4)"
train,pmechdb_split_0,0,8980,"C1=CC=CC=C1.CC1=CC=C(S(=O)(=O)[O-])C=C1.N#CC1=C(C2=CC=CC=C2)[O+:1]=[C:2](C2=CC=CC=C2)[CH:3]1[H:4].[OH2:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,529,"O=C1N[C:1]2=[C:2](N1C1OC(CO)C(O)C1O)[N:3]=[CH:4][N:5](CC1=CC(Br)=C(O)C(Br)=C1)[C:6]2=[NH2+:7].[Br-].[OH-]|(5, 4);((4, 3), 2);((2, 1), 6);((6, 7), 7)"
train,pmechdb_split_0,0,8465,"CC1=CO[C:1]([N+](=O)[O-])([H:2])[CH+:3]1.O=S(=O)(O)[O-:4]|(4, 2);((2, 1), 3)"
train,pmechdb_split_0,0,3169,"C[P+:1](C)(C)[NH:2][N:3]=[CH:4][O-:5]|(5, 4);((4, 3), 2);((2, 1), 1)"
train,pmechdb_split_0,0,2961,"CC(=O)[O-:1].O.O=S(CCN1CCC2CC[C:2](=[NH+:3]NC3=CC=CC=C3)[CH:4]([H:5])C21)C1=CC=CC=C1|(1, 5);((5, 4), 2);((2, 3), 3)"
